US06900309B1
6-[(2,2-Diphenylethyl)amino]-9-(tetrahydro-2H-pyran-2-yl)-9H-purine-2-carboxylic acid
A mixture of 2-chloro-N-(2,2-diphenylethyl)-9-(tetrahydro-2H-pyran-2-yl)-9H-purin-6-amine (0.87 g, 2 mmol) (Preparation 9), palladium (II) acetate (0.002 g. 0.009 mmol), 1,1′-bis(diphenylphosphino)ferrocene (0.033 g, 0.06 mmol), 10 M aqueous sodium hydroxide solution (0.6 ml, 6 mmol) and tetrahydrofuran (4 ml) was heated at 140° C. under an atmosphere of carbon monoxide at 1725 kPa (250 psi) for 12 hours. The mixture was allowed to cool and to stand at ambient temperature for 16 days during which time a suspension formed. The solid was collected by filtration and washed with tetrahydrofuran (10 ml). This material was added to a mixture of dichloromethane (35 ml) and water (25 ml) and the pH of the mixture was adjusted to 1 by the addition of dilute aqueous hydrochloric acid solution with stirring. The layers were separated and the aqueous phase was extracted with dichloromethane (25 ml). The combined organic phases were dried (MgSO4) and the solvent was removed under reduced pressure to give a the title compound as an amber foam (0.45 g) that was identical by 1H-NMR, high performance liquid chromatography, mass spectrometry and thin-layer chromatography to the compound prepared in Preparation 21.

reactant | 2-chloro-N-(2,2-diphenylethyl)-9-(tetrahydro-2H-pyran-2-yl)-9H-purin-6-amine | 2 mmol, 0.87 g | ClC1=NC(=C2N=CN(C2=N1)C1OCCCC1)NCC(C1=CC=CC=C1)C1=CC=CC=C1 | C24H24ClN5O
reactant | sodium hydroxide | 6 mmol, 10 M, 0.6 ml | [OH-].[Na+]
reactant | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
catalyst | palladium (II) acetate | 0.009 mmol, 0.002 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | 1,1′-bis(diphenylphosphino)ferrocene | 0.06 mmol, 0.033 g | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | 6-[(2,2-Diphenylethyl)amino]-9-(tetrahydro-2H-pyran-2-yl)-9H-purine-2-carboxylic acid | 0.45 g | C1(=CC=CC=C1)C(CNC1=C2N=CN(C2=NC(=N1)C(=O)O)C1OCCCC1)C1=CC=CC=C1 | C25H25N5O3
